US06121322
Diethyl 2-amino-6-[(2-oxo-2-pyrrolidin-1-yl-N-methyl-ethoxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate
In an analogous manner to that described in Example 1, from diethyl 2-amino-6-[(N-methyl-hydroxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate sodium and N-chloroacetyl-pyrrolidine the title compound is obtained in 77% yield as a wax.

reactant | diethyl 2-amino-6-[(N-methyl-hydroxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate sodium | [Na].NC1=C(C2=CC=C(C=CC2=C1C(=O)OCC)CC(N(C)O)=O)C(=O)OCC
reactant | N-chloroacetyl-pyrrolidine | ClCC(=O)N1CCCC1 | C6H10ClNO
product | Diethyl 2-amino-6-[(2-oxo-2-pyrrolidin-1-yl-N-methyl-ethoxycarbamoyl)-methyl]-azulene-1,3-dicarboxylate | 77% yield | NC1=C(C2=CC=C(C=CC2=C1C(=O)OCC)CC(N(C)OCC(N1CCCC1)=O)=O)C(=O)OCC | C25H31N3O7
